US04690922
(A) Preparation of (2-Hydroxy)propylimidazole
Mix 6.8 g imidazole and 15.3 g propylene carbonate and heat at 140° C. for 1 hour. Chromatograph the resultant residue on silica gel, eluting with methylene chloride:ethyl acetate (1:1), then with 5→10% methanol in methylene chloride to obtain the title compound of step A.

reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
reactant | propylene carbonate | 15.3 g | C1(OCC(C)O1)=O | C4H6O3
product | (2-Hydroxy)propylimidazole | OC(CC=1NC=CN1)C | C6H10N2O
